US05214038
N-(3-Fluoro-4-pyridinyl)-3-methyl-1H-indol-1-amine
To 200 ml isopropanol was added 4-chloro-3-fluoropyridine hydrochloride (10 g) and 3-methyl-1H-indole-1-amine (5.9 g). The mixture was stirred at 90° C. for four hours, cooled; then poured into 500 ml iced-water, pH adjusted to 10 with Na2CO3 solution, then extracted with ethyl acetate. The organic layer was washed with water, then dried (saturated NaCl, anhydrous MgSO4). After filtering, the solvent was evaporated to an oil, which was eluted on a silica gel column with CH2Cl2 (DCM) then with ether:petroleum ether (1:1) via flash chromatography. The desired fractions were combined then evaporated to yield 6.2 g of a solid, 45° C. A sample of this material was recrystallized from isopropyl ether/hexanes (1:1) to give a solid, m.p. 141°-142° C.

reactant | isopropanol | 200 ml | C(C)(C)O | C3H8O
reactant | 4-chloro-3-fluoropyridine hydrochloride | 10 g | Cl.ClC1=C(C=NC=C1)F
reactant | 3-methyl-1H-indole-1-amine | 5.9 g | CC1=CN(C2=CC=CC=C12)N | C9H10N2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | N-(3-Fluoro-4-pyridinyl)-3-methyl-1H-indol-1-amine | 6.2 g | FC=1C=NC=CC1NN1C=C(C2=CC=CC=C12)C | C14H12FN3
